Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Codeine
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain and Diarrhea
 
Major Surgical or Invasive Procedure:
Exploratory Laparotomy, Total Abdominal Colectomy and 
End-Ileostomy.

 
History of Present Illness:
Mr. ___ is a ___ year old man with a past medical history 
significant for positive PPD (recently on INH) and a recent 
diagnosis of Crohn's disease. He was first diagnosed with 
Crohn's in early ___ and was treated with 3 
weeks of steroids and TPN without good results. He was then 
started on Remicade ___ and ___, initially with some 
transient improvement, followed by recrudescence of his 
symptoms. At that time he was restarted on therapy for latent TB 
(he never completed treatment in the late ___ when it was first 
diangosed). 
.
He was admitted to ___ from ___ for initiation of 
cyclosporin. He returned on ___ after developing fevers, 
recurrent LLQ pain, and frequent diarrhea. Flexible 
sigmoidoscopy was concerning for CMV and ganciclovir was started 
(___). He was taken off cyclosporin and isoniazid (there was 
concern that this was causing fevers), and started on steroids 
and methotrexate. He indicates that he had an excellent initial 
response. 
.
Unfortunately, since that discharge he has not done well, with 
frequent non-stools, and more recently, he has had fevers, 
abdominal pain, and rectal bleeding. He was seen by his PCP 
earlier this week, and then by Dr. ___ who sent him in 
for admission.
.
In addition to the ROS above, he reports left should pain since 
___, occassional nightsweats, malaise, intermittent 
headaches, decrease appetite, decreased urine output, 60 lbs 
weight loss, and a new ulcer on the tip of his tongue, and 
generalized hair loss. He denies chest pain, shortness of 
breath, weakness, numbness, ataxia, change in cognition.
 
Past Medical History:
- Crohn's Disease diagnosed ___, recently discharged ___ 
following flare; has not responded to trials of steroids, 
Remicade
- GERD
- Diverticulosis
- Nephrolithiasis
(+) PPD on INH
- Depression
- + PPD in ___, which was not completely treated with INH due 
to elevated LFT's. He was re-initiated on INH therapy around the 
time he was started on steroids in ___.
 
Social History:
___
Family History:
No history of GI disorders.
- Father: DM, ___/CABG
- Mother: Healthy
 
Physical ___:
GEN:    Uncomfortable, non-toxic
VITALS: 101 -> AF, 90/60, 85.
HEENT:  Within normal limits, no LAD, small ulcer on tip of 
tongue.
COR:    S1 and S2, no murmurs.
CHEST:  Clear to auscultation bilaterally.
ABD:    Soft, mild LLQ pain, but no guarding or rebound.
EXT:    No edema
SKIN:   Warm, dry.
NEURO:  Alert, oriented, normal attention.
PSYCH:  Flat affect, but appropriate and pleasant

 
Pertinent Results:
___ 12:25PM   GLUCOSE-121*
___ 12:25PM   UREA N-12 CREAT-0.9 SODIUM-134 POTASSIUM-4.4 
CHLORIDE-96 TOTAL CO2-27 ANION GAP-15
___ 12:25PM   estGFR-Using this
___ 12:25PM   ALT(SGPT)-59* AST(SGOT)-21 ALK PHOS-76 TOT 
BILI-0.7
___ 12:25PM   ALBUMIN-3.6 CALCIUM-9.1 PHOSPHATE-2.9 
MAGNESIUM-1.9
___ 12:25PM   TSH-1.7
___ 12:25PM   CRP-141.1*
___ 12:25PM   WBC-4.6# RBC-3.50* HGB-9.7* HCT-30.2* MCV-86 
MCH-27.7 MCHC-32.1 RDW-16.8*
___ 12:25PM   PLT COUNT-473*
___ 12:25PM   PLT COUNT-473*
___ 05:03AM BLOOD WBC-16.3* RBC-3.17* Hgb-8.7* Hct-26.7* 
MCV-84 MCH-27.6 MCHC-32.7 RDW-16.7* Plt ___
___ 04:51AM BLOOD WBC-15.6* RBC-2.88* Hgb-7.8* Hct-24.3* 
MCV-85 MCH-27.1 MCHC-32.1 RDW-16.6* Plt ___
___ 06:05AM BLOOD WBC-13.4* RBC-2.94* Hgb-8.0* Hct-25.5* 
MCV-87 MCH-27.1 MCHC-31.3 RDW-16.6* Plt ___
___ 11:53AM BLOOD WBC-16.4* RBC-2.97* Hgb-7.9* Hct-24.9* 
MCV-84 MCH-26.6* MCHC-31.7 RDW-16.4* Plt ___
___ 05:03AM BLOOD WBC-15.6* RBC-2.82* Hgb-7.7* Hct-24.2* 
MCV-86 MCH-27.3 MCHC-31.9 RDW-16.6* Plt ___
___ 04:57AM BLOOD WBC-17.3* RBC-3.60* Hgb-10.0* Hct-30.4* 
MCV-84 MCH-27.7 MCHC-32.9 RDW-16.2* Plt ___
___ 06:20AM BLOOD WBC-12.1*# RBC-3.14* Hgb-8.6* Hct-26.9* 
MCV-86 MCH-27.4 MCHC-31.9 RDW-16.8* Plt ___
___ 05:52AM BLOOD WBC-7.3# RBC-3.91* Hgb-10.8* Hct-32.1* 
MCV-82 MCH-27.6 MCHC-33.7 RDW-16.3* Plt ___
___ 06:40AM BLOOD WBC-4.0 RBC-3.66* Hgb-10.1* Hct-30.2* 
MCV-82 MCH-27.7 MCHC-33.6 RDW-16.4* Plt ___
___ 07:50AM BLOOD WBC-4.4 RBC-3.77* Hgb-10.6* Hct-31.9* 
MCV-85 MCH-28.1 MCHC-33.3 RDW-16.8* Plt ___
___ 07:30AM BLOOD WBC-4.1 RBC-3.68* Hgb-10.4* Hct-32.0* 
MCV-87 MCH-28.2 MCHC-32.3 RDW-16.6* Plt ___
___ 05:56AM BLOOD WBC-3.3* RBC-3.02* Hgb-8.5* Hct-26.1* 
MCV-86 MCH-28.0 MCHC-32.5 RDW-16.6* Plt ___
___ 12:25PM BLOOD WBC-4.6# RBC-3.50* Hgb-9.7* Hct-30.2* 
MCV-86 MCH-27.7 MCHC-32.1 RDW-16.8* Plt ___
___ 05:03AM BLOOD Plt ___
___ 04:51AM BLOOD Plt ___
___ 06:05AM BLOOD Plt ___
___ 11:53AM BLOOD Plt ___
___ 05:03AM BLOOD Plt ___
___ 04:57AM BLOOD Plt ___
___ 06:20AM BLOOD Plt ___
___ 05:52AM BLOOD Plt ___
___ 06:40AM BLOOD Plt ___
___ 07:50AM BLOOD Plt ___
___ 07:30AM BLOOD Plt ___
___ 05:56AM BLOOD Plt ___
___ 12:25PM BLOOD Plt ___
___ 12:25PM BLOOD ESR-120*
___ 04:51AM BLOOD Glucose-106* UreaN-17 Creat-0.5 Na-134 
K-4.5 Cl-102 HCO3-27 AnGap-10
___ 06:05AM BLOOD Glucose-88 UreaN-16 Creat-0.4* Na-135 
K-3.8 Cl-103 HCO3-25 AnGap-11
___ 05:03AM BLOOD Glucose-133* UreaN-15 Creat-0.4* Na-137 
K-3.7 Cl-106 HCO3-24 AnGap-11
___ 04:57AM BLOOD Glucose-259* UreaN-16 Creat-0.6 Na-135 
K-3.5 Cl-102 HCO3-23 AnGap-14
___ 07:18AM BLOOD Glucose-204* UreaN-10 Creat-0.6 Na-127* 
K-4.2 Cl-94* HCO3-27 AnGap-10
___ 06:20AM BLOOD Glucose-126* UreaN-12 Creat-0.9 Na-136 
K-4.7 Cl-102 HCO3-28 AnGap-11
___ 05:27PM BLOOD Na-136 K-3.7 Cl-105
___ 05:52AM BLOOD Glucose-143* UreaN-16 Creat-0.9 Na-135 
K-3.8 Cl-98 HCO3-25 AnGap-16
___ 06:40AM BLOOD Glucose-189* UreaN-14 Creat-0.8 Na-136 
K-4.8 Cl-99 HCO3-29 AnGap-13
___ 07:50AM BLOOD Glucose-104* UreaN-14 Creat-0.9 Na-132* 
K-5.0 Cl-97 HCO3-26 AnGap-14
___ 07:30AM BLOOD Glucose-130* UreaN-12 Creat-0.8 Na-137 
K-4.6 Cl-96 HCO3-28 AnGap-18
___ 07:30AM BLOOD ALT-46* AST-30 LD(LDH)-248 AlkPhos-71 
TotBili-0.4
___ 12:25PM BLOOD ALT-59* AST-21 AlkPhos-76 TotBili-0.7
___ 04:51AM BLOOD Calcium-8.1* Phos-4.7* Mg-1.9
___ 06:05AM BLOOD Calcium-7.9* Phos-3.4 Mg-2.1
___ 04:57AM BLOOD Calcium-7.8* Phos-2.7 Mg-2.1
___ 07:18AM BLOOD Calcium-7.4* Phos-1.5*# Mg-1.8
___ 06:20AM BLOOD Calcium-7.7* Phos-4.7* Mg-2.5
___ 05:52AM BLOOD Calcium-9.1 Phos-3.8 Mg-2.2
___ 06:40AM BLOOD Calcium-9.4 Phos-3.9 Mg-2.4
___ 06:40AM BLOOD Calcium-9.4 Phos-3.9 Mg-2.4
___ 07:50AM BLOOD Calcium-9.5 Phos-4.9*# Mg-2.2
___ 05:56AM BLOOD Mg-1.9
___ 07:35PM BLOOD Iron-11*
___ 07:35PM BLOOD calTIBC-192* Ferritn-994* TRF-148*
___ 05:56AM BLOOD Triglyc-93
___ 12:25PM BLOOD TSH-1.7
___ 12:25PM BLOOD CRP-141.1*
___ 12:28PM BLOOD RedHold-HOLD

CHEST (PORTABLE AP) Study Date of ___ 6:58 ___ 
FINDINGS: The right PICC line extends to the lower portion of 
the SVC. The 
lungs are clear and there is no evidence of vascular congestion, 
pleural 
effusion, or cardiomegaly 
 PORTABLE ABDOMEN Study Date of ___ 12:39 AM 
FINDINGS: The supine portable shows paramedian staple lines and 
several 
phleboliths in the pelvis. 
  
No pathological distension of bowel loops is noted. On the right 
decubitus 
view, several borderline small bowel loops at the level of the 
left middle 
abdomen show small air-fluid levels. Air-fluid levels are also 
seen on the 
non-dependent upper parts of the right decubitus view. No 
anatomic reference 
is included on the image, and the findings could represent free 
air. An 
addition erect radiograph should be performed if possible, 
otherwise CT should 
be considered. 

CHEST (PORTABLE AP) Study Date of ___ 5:48 ___ 
: Low lung volumes. Interval development of a small left 
retrocardiac atelectasis. Borderline size of the cardiac 
silhouette without evidence of pulmonary edema or pneumonia. No 
pneumothorax. 

 
Brief Hospital ___:
ACUTE CROHN'S COLITIS - Complicated by fever, dehydration, 
abdominal pain, hematochezia, weight loss, and blood loss 
anemia. Thus far his disease is poorly responsive to 
antibiotics, steroids, remicaide, cyclosporin, methotrexate, 
with few other options (tysabri, humira, surgery). Will start 
steroids, check stool and blood cultures, hydrate, treat pain 
and nausea. Based on initial plan from ID, he has one more day 
of ganciclovir for CMV inclusion on biopsy (VL and PCR 
negative), which I will continue. His 3rd dose of methotrexate 
was due today, but I will hold this. 
.
HISTORY OF HYPERTENSION: This has been labile, increasing while 
on cyclosporine, but at this time he is running low. Will hold 
atenolol.
.
DEPRESSION: Continue prozac
.
HYPERLIPIDEMIA: Zocor
.
LATENT MTB: Recently off INH due to concern of drug fever. He is 
ID for this and CMV, and I have contacted them this evening for 
probable consult tomorrow.
.
CHRONIC BLOOD LOSS ANEMIA +/- ANEMIA OF INFLAMMATION: He is on 
iron therapy, but studies have never been checked. Ordered and 
pending.
.
PAIN: Morphine PRN
.
AMBULATION: Ad lib.
.
NUTRITION: Sips, meds, nutrition consult in AM
.
PROPHYLAXIS: Heparin SC
.
LINES/TUBES: Right AC PICC
.
PRECAUTIONS: NA
.
CODE STATUS: Full
.
DISPOSITION: Pending
.
.
.
_______________________
___, MD

___ Surgery Hospital ___:

The patient was transferred to the colorectal surgery service 
after Exploratory laparotomy, total abdominal colectomy and 
end-ileostomy to surgically manage his advanced crohns disease 
and CMV colitis. The patient had been very chronically ill. 
___ the patient was started on a clear liquid diet and his 
epidural adjusted by the acute pain service. The patient 
recieved Atavan for anxiety and was followed by social work.  
The patient was also followed by nutrition for TPN 
recommendation and managment. On ___ the patient's diet was 
advanced to fulln liquids, her epidural was removed and she was 
transitioned to pain medications by mouth, the surgical drain 
was remoced. Infections disease was consulted which recommended 
Valcyte. On ___ the patient developed signs and symptoms of 
ileus. ___ KUB showed air-fluid levels ___ CXR low 
lung volumes, atelectasis  
___ Urine cx <10,000, ___ Blood cx Pending. On 
___ the patient improved and began a low residue diet, 
started a steroid taper, HCT was 24.2, and Metoprolol 25 TID. 
Ileostomy output was elevated and on ___ he began to take 
Immodium 2mg BID. He was also restarted on his home dose of 
hyoscyamine. The TPN was weaned as he was tolerating a diet. On 
___ Wound culture returned and grew 1+ GNR, the patient was 
discharged home on Augmentin, Valganciclovir, and a regimen of 
immodium and metamucil wafers for elevated ileostomy output. He 
was told to follow-up with GI for recommendations regaruding his 
prednisone taper. 

 
Medications on Admission:
Discharge Medications:
1. multivitamin  Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*0*
2. folic acid 1 mg Tablet Sig: Five (5) Tablet PO once a week: 
Take on ___ (the day after Methotrexate dose).
Disp:*20 Tablet(s)* Refills:*0*
3. thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily). Disp:*30 Tablet(s)* Refills:*0*
4. fluoxetine 20 mg Capsule Sig: Two (2) Capsule PO DAILY 
(Daily). Disp:*60 Capsule(s)* Refills:*0*
5. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).
Disp:*30 Capsule, Delayed Release(E.C.)(s)* Refills:*0*
6. pyridoxine 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*0*
7. hyoscyamine sulfate 0.125 mg Tablet, Sublingual Sig: One (1) 
Tablet, Sublingual Sublingual TID (3 times a day) as needed for 
cramps. Disp:*30 Tablet, Sublingual(s)* Refills:*0*
8. lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO every eight 
(8) hours as needed for anxiety.
Disp:*20 Tablet(s)* Refills:*0*
9. ferrous sulfate 300  mg (60 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily). Disp:*30 Tablet(s)* Refills:*0*
10. magnesium oxide 250 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily). Disp:*30 Tablet(s)* Refills:*0*
11. cortisone 1 % Cream Sig: One (1) Appl Topical QID (4 times a 

day). Disp:*1 tube* Refills:*0*
12. atenolol 25 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*0*
14. ganciclovir sodium 500 mg Recon Soln Sig: Three Hundred 
Sixty (360) mg Intravenous Q12H (every 12 hours) for 12 days: 
Continue through ___.
Disp:*24 doses* Refills:*0*
16. simvastatin 20 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*0*
17. methotrexate sodium 25 mg/mL Solution Sig: ___ (25) 
mg Injection once a week: Give subcutaneous injection on 
___ doses* Refills:*0*
18. prednisone 10 mg Tablet Sig: Sixty (60) mg PO once a day for 

7 days: Take 60mg daily for 1 week, then reduce to 50mg daily 
until ___ should see Dr. ___.
Disp:*100 tablets* Refills:*1*
19. ondansetron 8 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 

Rapid Dissolve PO every eight (8) hours as needed for nausea.
Disp:*30 Tablet, Rapid Dissolve(s)* Refills:*0*
20. Calcium-Vitamin D 600-400 mg-unit Tablet Sig: One (1) Tablet 

PO twice a day. Disp:*60 Tablet(s)* Refills:*0*

 
Discharge Medications:
1. fluoxetine 20 mg Capsule Sig: Two (2) Capsule PO DAILY 
(Daily).  
2. simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
3. pyridoxine 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
4. valganciclovir 450 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily) for 3 months: Please keep your follow-up appointment 
with infectious disease .
Disp:*60 Tablet(s)* Refills:*0*
5. acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO Q 8H 
(Every 8 Hours) for 7 days.  
6. hydromorphone 2 mg Tablet Sig: Two (2) Tablet PO Q6H (every 6 
hours) as needed for pain for 5 days: Please do not drink 
alcohol or drive a car while taking this medication.
Disp:*40 Tablet(s)* Refills:*0*
7. pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).
Disp:*30 Tablet, Delayed Release (E.C.)(s)* Refills:*0*
8. metoprolol tartrate 25 mg Tablet Sig: One (1) Tablet PO TID 
(3 times a day).
Disp:*90 Tablet(s)* Refills:*0*
9. loperamide 2 mg Capsule Sig: One (1) Capsule PO BID (2 times 
a day).
Disp:*60 Capsule(s)* Refills:*0*
10. prednisone 10 mg Tablet Sig: Per prednisone taper, initial 
dose 40mg once dailyX1 additional day Tablet PO once a day: 
Prednisone taper: 40mg x 1 more day, 30mg x 5 days, 20mg x 7 
days, 10mg x 7 days, 5mg x 7 days, 2.5mg x 7 days.
Disp:*120 Tablet(s)* Refills:*0*
11. prednisone 5 mg Tablet Sig: ___ Tablet PO once a day for 6 
days: Please do not take until end of steroid taper for the 
Prednisone 2.5mgX 7days.
Disp:*4 Tablet(s)* Refills:*0*
12. hyoscyamine sulfate 0.125 mg Tablet, Sublingual Sig: One (1) 
Tablet, Sublingual Sublingual TID (3 times a day): take as 
needed for loose stool/high ileostomy output.
Disp:*30 Tablet, Sublingual(s)* Refills:*0*
13. psyllium 1.7 g Wafer Sig: One (1) Wafer PO BID (2 times a 
day).
Disp:*60 Wafer(s)* Refills:*0*
14. Outpatient Lab Work
Please draw weekly LFT's, BUN/CREAT, CBC. Fax results to the 
___ Infectious Disease clinic at ___ c/o ___ 
___.

15. pyridoxine 50 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*0*
16. Augmentin 875-125 mg Tablet Sig: One (1) Tablet PO every 
twelve (12) hours for 7 days.
Disp:*14 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
Severe Crohns Disease 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
___ were admitted to the hospital after a Subtotal Colectomy  
for surgical management of your severe crohns disease and CMV 
colitis. ___ have recovered from this procedure well and ___ are 
now ready to return home. Samples from your colon were taken and 
this tissue has been sent to the pathology department for 
analysis. ___ will receive these pathology results at your 
follow-up appointment. If there is an urgent need for the 
surgeon to contact ___ these results they will 
contact ___ before this time. ___ have tolerated a regular diet, 
passing gas and your pain is controlled with pain medications by 
mouth. ___ may return home to finish your recovery.

Please monitor your bowel function closely. If ___ have any of 
the following symptoms please call the office for advice or go 
to the emergency room if severe: increasing abdominal 
distension, increasing abdominal pain, nausea, vomiting, 
inability to tolerate food or liquids, prolonges loose stool, or 
constipation. 

___ have a long vertical incision on your abdomen that is closed 
with staples. This incision can be left open to air or covered 
with a dry sterile gauze dressing if the staples become 
irritated from clothing. The bottom 2 inches of your incision 
were opened prior to your discharge and it is important that 
this remain open with gauze dressing changes twice daily. This 
culture grew out some bacteria and ___ should take augmentin for 
7 days. The visiting nurses ___ help ___ with the dressing 
changes however ___ will need to do the evening dressing change. 
Apply dry sterile AMD rope to the wound base as instructed by 
your nurse, cover with sterile gauze pad, and secure with paper 
tape. A culture of this drainage has been sent to the lab and if 
it comes back with bacteria we will give ___ antibiotics, 
however at this time, no antibiotic is needed for this wound. 
The staples will stay in place until your first post-operative 
visit at which time they can be removed in the clinic, most 
likely by the office nurse. Please monitor the incision for 
signs and symptoms of infection including: increasing redness at 
the incision, opening of the incision, increased pain at the 
incision line, draining of white/green/yellow/foul smelling 
drainage, or if ___ develop a fever. Please call the office if 
___ develop these symptoms or go to the emergency room if the 
symptoms are severe.  ___ may shower even with the open wound, 
let the warm water run over the incision line and pat the area 
dry with a towel, do not rub. Keep stool from the ostomy away 
from the incision line. Be sure to shower prior to your visiting 
nurse visit so that a new dressing can be applie to a clean 
wound base. 

No heavy lifting for at least 6 weeks after surgery unless 
instructed otherwise by Dr. ___ may gradually increase 
your activity as tolerated but clear heavy excersise with Dr. 
___. 

___ will be prescribed a small amount of the pain medication 
Dilaudid. Please take this medication exactly as prescribed. ___ 
may take Tylenol as recommended for pain. Please do not take 
more than 4000mg of Tylenol daily. Do not drink alcohol while 
taking narcotic pain medications and tylenol. 

___ have a new ileostomy. The most common complication from a 
new ileostomy placement is dehydration and ___ have stayed in 
the hospital because of increased ileostomy output. The output 
from the stoma is stool from the small intestine and the water 
content is very high. The stool is no longer passing through the 
large intestine which is where the water from the stool is 
reabsorbed into the body and the stool becomes formed. ___ must 
measure your ileostomy output for the next few weeks. ___ are 
currently taking immodium and metamucil wafers to decrease your 
output and ___ should continue these medications. As your body 
readjusts to the output and medications ___ may need to have the 
amount of medications adjusted. The output from the stoma should 
not be more than 1200cc or less than 500cc. If ___ find that 
your output has become too much or too little, please call the 
office for advice. The office nurse or nurse practitioner can 
help titrate the medications to increase or slow the ileostomy 
output. Keep yourself well hydrated, if ___ notice your 
ileostomy output increasing, take in more electrolyte drink such 
as gatoraide. Please monitor yourself for signs and symptoms of 
dehydration including: dizziness (especially upon standing), 
weakness, dry mouth, headache, or fatigue. If ___ notice these 
symptoms please call the office or return to the emergency room 
for evaluation if these symptoms are severe. ___ may eat a low 
residue regular diet with your new ileostomy. Please monitor the 
appearance of the ostomy and stoma and care for it as instructed 
by the wound/ostomy nurses. ___ stoma (intestine that protrudes 
outside of your abdomen) should be beefy red or pink, it may 
ooze small amounts of blood at times when touched and this 
should subside with time. The skin around the ostomy site should 
be kept clean and intact. Monitor the skin around the stoma for 
buldging or signs of infection listed above. Please care for the 
ostomy as ___ have been instructed by the wound/ostomy nurses. 
___ will be able to make an appointment with the ostomy nurse in 
the clinic 7 days after discharge, ___ will have a visiting 
nurse at home for the next few weeks helping to monitor your 
ostomy until ___ are comfortable caring for it on your own. 

___ will need to continue taking the Valgancyclovir 900mg daily 
for at least 3 months because of your CMV colitis. Please 
continue taking this medication and have the lab values listed 
below faxed to the infectious disease clinic. ___ may have ___ 
labs drawn at your primary care providers office. 

___ will be on a steroid taper and followed by Dr. ___ in the 
GI clinic to start the Imuran therapy as an outpatient. The 
steroid tapet will be as follows, please take one more dose of 
Prednisons 40mg tomorrow ___ to complete 5 days, Prednisone 
30mg x 5 days, Prednisone 20mg x 7 days, Prednisone 10mg x 7 
days, Prednisone 5mg x 7 days, and Prednisone 2.5mg x 7 days. 
The Imuran will be started by Dr. ___ as an outpatient. We have 
had blood work that must be checked prior to starting this 
medication. This will be back in 3 days. Be sure to follow-up 
with Dr. ___ this therapy.

Please do not take the Atenolol that ___ have been taking at 
home. ___ are now taking 25mg of Metoprolol three times daily to 
control your blood pressure, please talk with your primary care 
provider about this. 
 
Followup Instructions:
___